* Schematics Netlist *



D_D1         Vin Vout D1N4002 
V_V1         Vin 0 DC 0 AC 0
+SIN 0 12v 1k 0 0 0
R_R1         0 Vout  1k  
C_C1         0 Vout  1000UFD  
D_D2         $N_0001 Vout1 D1N4002 
D_D3         Vin1 Vout1 D1N4002 
D_D4         0 $N_0001 D1N4002 
D_D5         0 Vin1 D1N4002 
V_V2         Vin1 $N_0001 DC 0 AC 0
+SIN 0 12v 1k 0 0 0
R_R2         0 Vout1  1k  
C_C2         0 Vout1  220UFD  
